US07459562B2
Prepared in a manner similar to that which is described for Example 91. 1-(4-(2-Carbamoylpyridin-4-yloxy)-2-chlorophenyl)-3-(2-(4-fluorophenyl)acetyl)urea (18 mg, 0.04 mmol) in DMF (1.0 mL) was converted to 1-(4-(2-aminopyridin-4-yloxy)-2-chlorophenyl)-3-(2-(4-fluorophenyl)acetyl)urea (10 mg, 55% yield). 1H NMR (DMSO-d6) δ 13.47 (s, 1H), 11.26 (s, 1H), 11.08 (s, 1H), 8.37 (d, 1H, J=8.5 Hz), 7.95 (d, 1H, J=7.5 Hz), 7.88 (s, 2H), 7.62 (s, 1H), 7.35 (m, 3H), 7.17 (m, 2H), 6.64 (d, 1H, J=7.5 Hz), 6.13 (s, 1H), 3.76 (s, 2H); MS(ESI+): m/z 415.18/417.17 (M+H)+.

reactant | 1-(4-(2-Carbamoylpyridin-4-yloxy)-2-chlorophenyl)-3-(2-(4-fluorophenyl)acetyl)urea | 0.04 mmol, 18 mg | C(N)(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)NC(CC1=CC=C(C=C1)F)=O)Cl | C21H16ClFN4O4
reactant | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 1-(4-(2-aminopyridin-4-yloxy)-2-chlorophenyl)-3-(2-(4-fluorophenyl)acetyl)urea | 10 mg, 55% yield | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)NC(CC1=CC=C(C=C1)F)=O)Cl | C20H16ClFN4O3
